US06017919
6N Hydrochloric acid (20 ml) was added to 2-[3-(1-hexenyl)-4-methoxyphenyl]-4,4-dimethyl-4,5-dihydrooxazole (583 mg, 2.03 mmol), and the mixture was refluxed under heating for 4 hours. Saturated saturated brine (30 ml) was added to this solution, and the aqueous layer was extracted 3 times with ethyl acetate (50 ml). The organic layers were combined, and dried over anhydrous magnesium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography (hexane/ethyl acetate=2/1) to give 3-(1-hexenyl)-4-methoxybenzoic acid (164.3 mg, 35%) as a mixture (colorless crystals) of geometrical isomers (1:1).

reactant | Hydrochloric acid | 6N, 20 ml | Cl | ClH
reactant | 2-[3-(1-hexenyl)-4-methoxyphenyl]-4,4-dimethyl-4,5-dihydrooxazole | 2.03 mmol, 583 mg | C(=CCCCC)C=1C=C(C=CC1OC)C=1OCC(N1)(C)C | C18H25NO2
reactant | brine | 30 ml | [Cl-].[Na+].O
product | 3-(1-hexenyl)-4-methoxybenzoic acid | 164.3 mg, 35% | C(=CCCCC)C=1C=C(C(=O)O)C=CC1OC | C14H18O3
